US07964608B2
4-[3-(3-Chloro-phenyl)-7-methoxy-2,4-dioxo-3,4-dihydro-2H-pyrimido[5,4-c]quinolin-1-yl]-piperidine-1-carboxylic acid ethylamide (40 mg) was prepared according to general procedure H from 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and ethyl isocyanate. LCMS: m/z 508 [M+1]+.

reactant | 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCNCC1)=O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 4-[3-(3-Chloro-phenyl)-7-methoxy-2,4-dioxo-3,4-dihydro-2H-pyrimido[5,4-c]quinolin-1-yl]-piperidine-1-carboxylic acid ethylamide | 40 mg | C(C)NC(=O)N1CCC(CC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)Cl)=O | C26H26ClN5O4
